US07618957B2
a) [1,3-Bis-(2-benzyloxy-1-benzyloxymethyl-ethoxy)-prop-2-yl]-acetic Acid
14.62 g (75 mmol) of bromoacetic acid-tert-butyl ester is added [to] 30.02 g (50 mmol) of 1,3-bis-(2-benzyloxy-1-benzyloxymethyl-ethoxy)-propan-2-ol (Cassel et al., Eur. J. Org. Chem., 2001, 5, 875-896) and 5.6 g (100 mmol) of fine-powder potassium hydroxide as well as a catalytic amount (1 g) of tetra-n-butylammonium hydrogen sulfate in 250 ml of toluene at 0° C., and it is stirred for 2 hours at this temperature as well as for 12 hours at room temperature. The reaction solution is mixed with 500 ml of ethyl acetate and 300 ml of water. The organic phase is separated and washed twice with 300 ml each of water, then dried on magnesium sulfate and evaporated to the dry state in a vacuum. The residue is suspended in a mixture consisting of 400 ml of methanol and 0.5 M sodium hydroxide solution at a 2:1 ratio and then heated for 12 hours to 60° C. The reaction mixture is neutralized for working-up by mixing with Amberlite IR 120 (H+ form)-cation exchange resin, exchanger is filtered out, evaporated to the dry state, and chromatographed on silica gel (mobile solvent: ethyl acetate/hexane 1:3).

reactant | bromoacetic acid-tert-butyl ester | 75 mmol, 14.62 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | 1,3-bis-(2-benzyloxy-1-benzyloxymethyl-ethoxy)-propan-2-ol | 50 mmol, 30.02 g | C(C1=CC=CC=C1)OCC(OCC(COC(COCC1=CC=CC=C1)COCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C37H44O7
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetra-n-butylammonium hydrogen sulfate | 1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
product | [1,3-Bis-(2-benzyloxy-1-benzyloxymethyl-ethoxy)-prop-2-yl]-acetic Acid | C(C1=CC=CC=C1)OCC(OCC(COC(COCC1=CC=CC=C1)COCC1=CC=CC=C1)CC(=O)O)COCC1=CC=CC=C1 | C39H46O8
